Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-8.20650348139
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8][O:10][H:11].[H:9]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[O:10][H:11],-3.83262976161
[H:1][O:2][C:3]([C:4]=[C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3](=[C:4]=[C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],2.61658889403
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],4.2036151654600005
[C:6]([H:7])[H:8].[H:1][C:2]([O:3][C:4][H:5])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-7.46497184469
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C@@:3]([H:4])([O:5])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.61865112238
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-1.78808199585
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],2.07977244313
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[O:10]=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9],0.676452667811
[O:1]=[C:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:6][C:8]([H:9])([H:10])[H:11],2.05531976197
[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]#[C:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-4.08086899982
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],0.959973290241
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[O:11][H:12]>>[C:5](\[H:6])([O:7][H:8])=[C:9](/[H:10])[O:11][H:12].[H:1][C:2]#[C:3][H:4],-1.103302441
[H:1][C:2]([H:3])[O:4][C:5]([C:6]([H:7])([H:8])[H:9])[O:10][C:11][H:12]>>[H:1][C:2]([H:3])[O:4][C@@:5]1([C:6]([H:7])([H:8])[H:9])[O:10][C:11]1[H:12],-1.33591646209
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15],-5.26679572708
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:12]([H:13])([H:14])[H:15],5.01828121611
[C:1](=[C:2]([H:7])[H:10])([H:8])[H:11].[C:3](=[O:4])([H:5])[C:6]#[C:9]>>[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-0.985872249541
[C:1]#[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]#[C:5].[C:6]([H:7])([H:8])[H:9],5.793827148840001
[O:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1][C:2]#[C:3][C:4][C:5]([H:6])[C:8]([H:9])([H:10])[H:11],2.25761180653
[H:7].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:8][H:9]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-4.85022766184
[H:1][C:2]([C:3][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16])([H:8])[H:9].[H:4][C:5]#[C:6][H:7]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.30586881465
[C:3]([H:4])=[C:5]([H:6])[H:7].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],-6.11163679329
[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:10]([H:11])([H:12])[H:13],5.00838789266
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],7.27232930657
[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.23704580055
[H:1][C:2]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10])[C:11][H:12]>>[H:1][C:2]1[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]1[H:12],-4.86815757049
[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-3.90033079754
